US04638067
7-[3-[(Diethylamino)methyl]-1-pyrrolidinyl]-1-ethyl-6,8-difluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic Acid.
A mixture of 0.5 g (1.8 mmole) 1-ethyl-6,7,8-trifluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid, 5 ml acetonitrile, 0.27 g (1.8 mole) of 1,8-diazobicyclo[5.4.0]undec-7-ene, and 0.3 g (1.9 mmole) of N,N-diethyl-3-pyrrolidinemethanamine was stirred at room temperature overnight. The formed precipitate was filtered, washed with acetonitrile then ethyl ether until dry to yield 0.45 g (60%) of the title compound, mp 210°-211° C.

reactant | 1-ethyl-6,7,8-trifluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid | 1.8 mmole, 0.5 g | C(C)N1C=C(C(C2=CC(=C(C(=C12)F)F)F)=O)C(=O)O | C12H8F3NO3
reactant | N,N-diethyl-3-pyrrolidinemethanamine | 1.9 mmole, 0.3 g | C(C)N(CC1CNCC1)CC | C9H20N2
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
product | 7-[3-[(Diethylamino)methyl]-1-pyrrolidinyl]-1-ethyl-6,8-difluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic Acid | 0.45 g, 60% | C(C)N(CC)CC1CN(CC1)C1=C(C=C2C(C(=CN(C2=C1F)CC)C(=O)O)=O)F | C21H27F2N3O3
